US05244908
Synthesis of 5-[2-(phenoxycarbonyloxy)ethylthio]imidazo[1,2-a]pyridine
To a solution of 5-[2-(hydroxy)ethylthio]imidazo[1,2-a]pyridine (5.83 g, 30 mmoles) and pyridine (4.36 ml, 60 mmoles) in methylene chloride (120 ml) was added phenyl chloroformate (7.53 ml, 60 mmoles) with stirring under ice-cooling and the mixture was stirred under ice-cooling for 30 minutes. The reaction solution was washed in turn with an aqueous 5% sodium bicarbonate solution and saturated saline and dried over anhydrous magnesium sulfate, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain 8.61 g of the desired product (91.3%, oily product).

reactant | 5-[2-(hydroxy)ethylthio]imidazo[1,2-a]pyridine | 30 mmoles, 5.83 g | OCCSC1=CC=CC=2N1C=CN2 | C9H10N2OS
reactant | pyridine | 60 mmoles, 4.36 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 60 mmoles, 7.53 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 5-[2-(phenoxycarbonyloxy)ethylthio]imidazo[1,2-a]pyridine | 8.61 g, 91.3% | O(C1=CC=CC=C1)C(=O)OCCSC1=CC=CC=2N1C=CN2 | C16H14N2O3S
